US04174394
Preparation of ((5-nitro-2-thiazolyl)thio)Pyrazine (Compound 1)
To a solution of 60.0 g (0.25 mol) of sodium sulfide nonahydrate in 500 ml of dimethyl formamide was gradually added 29 g (0.25 mol) of chloropyrazine in 100 ml of dimethyl formamide. The solution was stirred overnight at approximately 40° C. following which 52.5 g (0.25 mol) of 2-bromo-5-nitrothiazole was added as a solid. This reaction mixture was stirred at room temperature for 4 hours. After this period it was poured into water. The resulting precipitate was collected by suction filtration, washed with water and dried. The crude product was crystallized from methanol to yield 38 g (72% yield) of yellowish-gold crystals, m.p. 129°-130° C. A sample was subjected to elemental analysis. The results obtained were as follows:

reactant | sodium sulfide nonahydrate | 0.25 mol, 60.0 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | chloropyrazine | 0.25 mol, 29 g | ClC1=NC=CN=C1 | C4H3ClN2
reactant | 2-bromo-5-nitrothiazole | 0.25 mol, 52.5 g | BrC=1SC(=CN1)[N+](=O)[O-] | C3HBrN2O2S
reactant | water | O | H2O
solvent | dimethyl formamide | 500 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 100 ml | CN(C=O)C | C3H7NO
product | ((5-nitro-2-thiazolyl)thio)Pyrazine | 72% yield | [N+](=O)([O-])C1=CN=C(S1)SC1=NC=CN=C1 | C7H4N4O2S2
